US05972926
(b) Boc-Iminodiacetic acid dibenzyl ester
Boc-Iminodiacetic acid (5 g, 21.44 mmol), 4-dimethylaminopyridine (5.24 g, 42.87 mol), benzyl alcohol (4.64 g, 42.9 mmol) and HOBt (6.8 g, 43 mmol) were dissolved in CH2Cl2 (200 mL) and the solution was cooled to 0° C. DCC (8.84 g, 42.9 mmol) was added and the reaction was allowed to proceed at ambient temperature overnight. Precipitated dicyclohexylurea was filtered off and the filtrated was extracted with 4% aq NaHCO3.

reactant | Boc-Iminodiacetic acid | 21.44 mmol, 5 g | C(=O)(OC(C)(C)C)C(C(=O)O)NCC(=O)O | C9H15NO6
reactant | benzyl alcohol | 42.9 mmol, 4.64 g | C(C1=CC=CC=C1)O | C7H8O
reactant | HOBt | 43 mmol, 6.8 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 42.9 mmol, 8.84 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | 4-dimethylaminopyridine | 42.87 mol, 5.24 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | Boc-Iminodiacetic acid dibenzyl ester | C(C1=CC=CC=C1)OC(CNC(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C23H27NO6
